US05461036
To a solution of NaOH (5.03 g) in water (200 ml) was suspended oleic acid (4.96 g), and the mixture to which ice had been added, was stirred at 5° C. A solution of potassium permanganate (4 g) in water (500 ml) was added, and the mixture was stirred for 5 minutes. Then, aqueous sulfurous acid was added until the mixture turned white, and the resulting precipitates were collected by filtration. The precipitates were washed with water and eluted with a mixture of chloroform-methanol (1:1), and the eluate was concentrated to give 9,10-dihydroxyoctadecanoic acid (4.69 g). To the suspension of 9,10-dihydroxyoctadecanoic acid in acetone was added conc. sulfuric acid (0.1 ml), and the mixture was stirred for 8 hours. After acetone was removed by distillation and water was added, the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate to give an acetonide (4.70 g). To the acetonide (3.70 g) were added para-nitrophenol (1.44 g) and N,N'-dicyclohexylcarbodiimide (3.21 g), and the mixture was stirred in N,N-dimethylformamide (DMF) for 12 hours. After precipitates produced were removed by filtration and the solvent (DMF) was removed by distillation, the residue was subjected to chromatography on a silica gel column with an eluent system of n-hexaneethyl acetate (50:1) to give the active ester of 9,10-dihydroxyoctadecanoic acid 9,10-acetonide (3.05 g). The active ester was dissolved in DMF together with 6-(4'-N-glycyl-spicaminyl-amino)purine hydrochloride (400 mg), and after triethylamine (2.0 ml) was added, the mixture was stirred for 12 hours. The reaction mixture was concentrated, and the residue was subjected to chromatography on a silica gel column with eluent systems of chloroform-methanol (7:1 to 5:1) to give SPK123 in the yield of 113.9 mg.

reactant | NaOH | 5.03 g | [OH-].[Na+]
reactant | oleic acid | 4.96 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | potassium permanganate | 4 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sulfurous acid | S(O)(O)=O | H2O3S
solvent | water | 200 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 9,10-dihydroxyoctadecanoic acid | 4.69 g | OC(CCCCCCCC(=O)O)C(CCCCCCCC)O | C18H36O4
